US06211215B1
In substantially the same manner as in Reference Example 31, 3,4-dihydro-2-naphthalenecarboxamide was allowed to react with 1,3-dichloroacetone to give 4-chloromethyl-2-(3,4-dihydro-2-naphthyl)oxazole. The yield was 60%. Recrystallization from isopropyl ether gave colorless prisms, mp 73-74° C.

reactant | 3,4-dihydro-2-naphthalenecarboxamide | C1=C(CCC2=CC=CC=C12)C(=O)N | C11H11NO
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
product | 4-chloromethyl-2-(3,4-dihydro-2-naphthyl)oxazole | yield was 60% | ClCC=1N=C(OC1)C1=CC2=CC=CC=C2CC1 | C14H12ClNO
